US07105671B2
A solution of 2-(4-methanesulfonyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid (60 mg, 0.19 mmol), benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluoro-phosphate (127 mg, 0.29 mmol), and 2-aminothiazole (28 mg, 0.29 mmol) in methylene chloride (5 mL) at 25° C. was treated with triethylamine (0.08 mL, 0.58 mmol). The resulting reaction mixture was stirred at 25° C. for 16 h. The reaction mixture was then diluted with water (10 mL) and extracted with methylene chloride (3×15 mL). The combined organic layers were sequentially washed with water (1×10 mL), a 1N aqueous sodium hydroxide solution (1×10 mL), a 1N aqueous hydrochloric acid solution (1×10 mL), and a saturated sodium chloride solution (1×10 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 12M, Silica, 20/80 hexanes/ethyl acetate) afforded 2-(4-methanesulfonyl-phenyl)-3-(tetrahydro-pyran-2-yl)-N-thiazol-2-yl-propionamide (54 mg, 71%) as a colorless oil: EI-HRMS m/e calcd for C18H22N2O4S2 (M+) 394.1021, found 394.1021.

reactant | 2-(4-methanesulfonyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid | 0.19 mmol, 60 mg | CS(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)CC1OCCCC1 | C15H20O5S
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluoro-phosphate | 0.29 mmol, 127 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-aminothiazole | 0.29 mmol, 28 mg | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 0.58 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 2-(4-methanesulfonyl-phenyl)-3-(tetrahydro-pyran-2-yl)-N-thiazol-2-yl-propionamide | 54 mg, 71% | CS(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1OCCCC1 | C18H22N2O4S2
